US05246915
12.7 g of potassium carbonate are added to a solution of 21 g of N-cyano-N'-(2,2-dimethyl-4-chloroindan-1-yl)formamidine in 80 ml of dimethylformamide. 14.1 g of methyl bromoacetate are added dropwise. After the exothermic reaction has ceased the mixture is agitated for 1.5 hours at +50° C. another portion of 12.7 g of potassium carbonate is added and the mixture is stirred for 18 hours at +100° C. The precipitate is filtered off from the hot solution and washed with 30 g of hot dimethylformamide. The combined filtrates are dropwise added at +60° C. to a solution of 14.2 g of tert. butylnitrite in 30 ml of dimethylformamide. Immediate evolution of nitrogen is observed and the temperature of the mixture rises to +67° C. After 30 minutes the dropwise addition is completed. The mixture is maintained at +70° to +75° C. for 2.5 hours and then poured into ice-water and extracted with ethyl acetate. The organic phase is washed with brine, dried with sodium sulfate and concentrated to dryness. The residue is purified by chromatography at a silica gel column with an ethyl acetate/hexane mixture (1:2 by volume), affording 12.7 g of 1-(2,2-dimethyl-4-chloro-indan-1-yl)-5-imidazolecarboxylic acid methyl ester, having a melting point of 111°-113° C.

reactant | potassium carbonate | 12.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-cyano-N'-(2,2-dimethyl-4-chloroindan-1-yl)formamidine | 21 g | C(#N)NC=NC1C(CC2=C(C=CC=C12)Cl)(C)C | C13H14ClN3
reactant | methyl bromoacetate | 14.1 g | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 12.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 1-(2,2-dimethyl-4-chloro-indan-1-yl)-5-imidazolecarboxylic acid methyl ester | 12.7 g | COC(=O)C1=CN=CN1C1C(CC2=C(C=CC=C12)Cl)(C)C | C16H17ClN2O2
